US08541588B2
thiazole-4-yl-carbamic acid tert-butyl ester
Thiazole-4-carboxylic acid (6.46 g, 50.0 mmol) was slurried in tert-butyl alcohol (280 mL, 2900 mmol). Triethylamine (7.68 mL, 55.1 mmol) and diphenylphosphonic azide (11.9 mL, 55.1 mmol) were added and the reaction was heated at reflux for 18 hours. The reaction was evaporated to a residue. The residue was dissolved in ethyl acetate and washed with water, 5% citric acid (aqueous), water, saturated aqueous sodium bicarbonate and brine. The organic phase was dried over magnesium sulfate and evaporated to a residue. The residue was purified by silica gel chromatography (80 g ISCO™ column, hexanes to ethyl acetate gradient elution). Product fractions were combined and evaporated to a residue. The residue was triturated with 20% methyl t-butyl ether in hexanes. The solid was collected by filtration. Vacuum drying gave 6.48 g of product as a white solid. LCMS Rt=1.46 minutes MS m/z 201 [MH]+

reactant | Thiazole-4-carboxylic acid | 50.0 mmol, 6.46 g | S1C=NC(=C1)C(=O)O | C4H3NO2S
reactant | tert-butyl alcohol | 2900 mmol, 280 mL | C(C)(C)(C)O | C4H10O
reactant | Triethylamine | 55.1 mmol, 7.68 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphonic azide | 55.1 mmol, 11.9 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
product | thiazole-4-yl-carbamic acid tert-butyl ester | 6.48 g | C(C)(C)(C)OC(NC=1N=CSC1)=O | C8H12N2O2S
